US07605181B2
Step A: Preparation of Ethyl 3-(2,6-dimethylbenzyloxy)benzoate
To a stirred solution of Ethyl 3-hydroxybenzoate (12.21 g, 73.47 mmol) and triphenylphosphine (21.01 g, 80.13 mmol) in dry THF (100 ml) was added dropwise a solution of 2,6-Dimethylbenzyl alcohol (10 g, 73.5 mmol) and diisopropyl azodicarboxylate (16.19 g, 80.13 mmol) in dry THF (35 ml) and dry DMF (15 ml) at ambient temperature. After three hours of stirring at room temperature, the reaction mixture was diluted with diethyl ether and washed twice with water and brine. The combined organic layer was dried over Na2SO4, filtered, concentrated and purified by flash chromatography using ethyl acetate:hexane (1:3) as elutent.

reactant | Ethyl 3-hydroxybenzoate | 73.47 mmol, 12.21 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | triphenylphosphine | 80.13 mmol, 21.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,6-Dimethylbenzyl alcohol | 73.5 mmol, 10 g | CC1=C(CO)C(=CC=C1)C | C9H12O
reactant | diisopropyl azodicarboxylate | 80.13 mmol, 16.19 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 3-(2,6-dimethylbenzyloxy)benzoate | CC1=C(COC=2C=C(C(=O)OCC)C=CC2)C(=CC=C1)C | C18H20O3
